US08309596B2
D) C-(7-Chloro-naphthalen-1-yl)-methylamine hydrochloride
1.24 g of Triphenylphosphine and 410 μl of H2O are added to 998 mg of 1-azidomethyl-7-chloro-naphthalene in 20 ml of THF. The mixture obtained is stirred at 50° for 5 hours and solvent is evaporated. The residue obtained is acidified with aq. 1N HCl solution and extracted with EtOAc. The aq. phase obtained is basified with aq. 10% NaHCO3 solution and extracted with EtOAc. The organic phase obtained is dried and solvent is evaporated. The title compound is obtained as the free amine compound and converted to the hydrochloride salt by addition of 4M HCl solution in dioxane. Solvent is evaporated and the residue obtained is stirred with ether, the mixture obtained is filtered and the filtrate obtained is dried to yield the title compound.

reactant | Triphenylphosphine | 1.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-azidomethyl-7-chloro-naphthalene | 998 mg | N(=[N+]=[N-])CC1=CC=CC2=CC=C(C=C12)Cl | C11H8ClN3
reactant | HCl | 1N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | H2O | 410 μl | O | H2O
product | C-(7-Chloro-naphthalen-1-yl)-methylamine hydrochloride | Cl.ClC1=CC=C2C=CC=C(C2=C1)CN | InChI=1S/C11H10ClN.ClH/c12-10-5-4-8-2-1-3-9(7-13)11(8)6-10;/h1-6H,7,13H2;1H
